US07368578B2
To a solution of ethyl (2E)-3-{4[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate (11.94 g) in tetrahydrofuran (200 mL)-ethanol (20 mL) was gradually added sodium borohydride (650 mg) at 0° C. After stirring the reaction mixture for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give crystals of ethyl (2E)-3-{4[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate (11.0 g, yield 92%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 96-97° C.

reactant | ethyl (2E)-3-{4[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate | 11.94 g | C(=O)C1=CC(=C(OCC=2N=C(OC2C)/C=C/C(=O)OCC)C=C1)OC | C18H19NO6
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | sodium borohydride | 650 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | ethyl (2E)-3-{4[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate | 11.0 g, yield 92% | OCC1=CC(=C(OCC=2N=C(OC2C)/C=C/C(=O)OCC)C=C1)OC | C18H21NO6
